US05641431
Preparation of 4-n-pentyl-4-phenyl-4-silacyclohexanone
A mixture of 15.9 g of 9-borabicyclo [3.3.1] nonan, 14.8 g of n-pentylphenyldivinylsilane and 150 ml of n-hexane was refluxed for 2 hours and then cooled with ice water. 7.0 ml of borane-dimethylsufide was added to the mixture, which was then heated again and refluxed for 2 hours. After cooling, 16 ml of methanol was added at room temperature and the mixture was stirred for 2 hours at 0° C. 25.0 g of dichloromethylmethyl ether was then dripped into the mixture, followed by also dripping a hexane-tetrahydrofuran (1:1) solution of 1.33M lithium t-butoxide into the mixture. After stirring at room temperature for 2 hours, 80 ml of ethanol, 10 ml of water and 10.0 g of sodium hydroxide were added. Then 80 ml of an aqueous solution of 30% hydrogen peroxide was slowly added. After stirring at room temperature for 2 hours, the organic layer was dried/concentrated to obtain a mixture of the target product and bicyclo [3.3.1] nonan-9-one. They were separated by means of silica-gel chromatography to obtain 15.2 g (yield 91%) of the target product. The target product thus obtained exhibited the same spectra as those of Example 7.

reactant | 9-borabicyclo [3.3.1] nonan | 15.9 g | C12CCCC(CCC1)B2 | C8H15B
reactant | n-pentylphenyldivinylsilane | 14.8 g | C(CCCC)[Si](C=C)(C=C)C1=CC=CC=C1 | C15H22Si
reactant | dichloromethylmethyl ether | 25.0 g | ClC(Cl)OC | C2H4Cl2O
reactant | lithium t-butoxide | 1.33M | CC(C)([O-])C.[Li+]
reactant | sodium hydroxide | 10.0 g | [OH-].[Na+]
reactant | hydrogen peroxide | OO | H2O2
reactant | bicyclo [3.3.1] nonan-9-one | C12CCCC(CCC1)C2=O | C9H14O
solvent | water | 10 ml | O | H2O
solvent | ethanol | 80 ml | C(C)O | C2H6O
solvent | hexane tetrahydrofuran | CCCCCC.O1CCCC1
solvent | methanol | 16 ml | CO | CH4O
solvent | n-hexane | 150 ml | CCCCCC | C6H14
product | 4-n-pentyl-4-phenyl-4-silacyclohexanone | 15.2 g, yield 91% | C(CCCC)[Si]1(CCC(CC1)=O)C1=CC=CC=C1 | C16H24OSi
